LDO
*SPICE Netlist generated by Advanced Sim server on 17/11/2024 17:43:22
.options MixedSimGenerated

*Schematic Netlist:
CC1 0 +VIN 10u
CC2 0 +VOUT 10u
QQ1 +VIN OUTPUT +VOUT  NPN_Mod_Gummel_Poon
RR1 VREF +VIN 10k TC1=0 TC2=0
RR2 0 VREF 1K TC1=0 TC2=0
RR3 +VOUT FEEDBACK 1K TC1=0 TC2=0
RR4 FEEDBACK 0 1K TC1=0 TC2=0
XU1 VREF FEEDBACK +VIN 0 OUTPUT IDEALOPAMP_5NODES PARAMS: GAIN=1Meg
VV1 +VIN 0 5 AC 1 0

.PROBE {V(VREF)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(OUTPUT)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(FEEDBACK)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(+VOUT)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(+VIN)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
*---------------------------------------------
* Modified Version of the Gummel-Poon Model - like LTSPICE and PSPICE model
.model NPN_Mod_Gummel_Poon npn(level=2)

*------------------------
.SUBCKT IdealOpamp_5nodes  In+ In- VCC VEE Out PARAMS: GAIN=1Meg
RVCC VCC 0 1
RVEE VEE 0 1
E1 Out 0 In+ In- {Gain}
R1 In+ In- 1e12
.ENDS

.END